US06335324B1
a) 2-Naphthylmethylisocyanate
A drop of dimethylformamide and oxalyl chloride (1 ml) were added to a solution of 2-naphthylacetic acid (840 mg, 4.5 mmol) in methylene chloride (15 ml) at room temperature. This mixture was stirred at room temperature for 30 minutes. The solvent was removed and the residue was dissolved in acetone (15 ml) and cooled to 0° C. A solution of sodium azide (700 mg, 11 mmol) in water (10 ml) was added. The reaction mixture was stirred for 30 minutes at 5° C. and was then poured into a mixture of ice water (30 ml), ether (40 ml), and hexane (40 ml). The organic phase was separated, washed with brine, dried and concentrated to 5 ml. Chloroform (5 ml) was added to the residue. The resultant solution was added to chloroform (10 ml) at 80° C. dropwise. The mixture was heated at reflux for 1 hour. The solvent was evaporated to give 680 mg of crude product. Purification by chromatography (silica, methylene chloride) gave 342 mg of the desired product as a white solid. IR (neat) 2355 cm−1, 2336 cm−1, 2267 cm−1.

reactant | dimethylformamide | CN(C=O)C | C3H7NO
reactant | oxalyl chloride | 1 ml | C(C(=O)Cl)(=O)Cl | C2Cl2O2
reactant | 2-naphthylacetic acid | 4.5 mmol, 840 mg | C1=C(C=CC2=CC=CC=C12)CC(=O)O | C12H10O2
reactant | sodium azide | 11 mmol, 700 mg | [N-]=[N+]=[N-].[Na+]
solvent | methylene chloride | 15 ml | C(Cl)Cl | CH2Cl2
solvent | water | 10 ml | O | H2O
solvent | hexane | 40 ml | CCCCCC | C6H14
solvent | ether | 40 ml | CCOCC | C4H10O
product | 2-Naphthylmethylisocyanate | 342 mg | C1=C(C=CC2=CC=CC=C12)CN=C=O | C12H9NO
